US05834506
1,5-Bis (4-amino-phenyl)-pentan-3-one
A mixture of 1,5-bis-(4-nitro-phenyl)-pentan-3-one from Example HH (9.00 g, 27.4 mmol), 5% Pd on BaSO4 (0.7 g), and THF (600 mL) was shaken in a hydrogen atmosphere of 52 psi at 26° C. for 17 hours. The catalyst was filtered, and the filtrate was concentrated. The residue was chromatographed on silica gel, eluting with 4% MeOH in CH2Cl2, to give the title compound. 1H NMR (CDCl3) δ 2.60 (m, 4 H), 2.74 (m, 4 H), 3.45 (bs, 4 H), 6.56 (m, 4 H), 6.91 (m, 4 H).

reactant | 1,5-bis-(4-nitro-phenyl)-pentan-3-one | [N+](=O)([O-])C1=CC=C(C=C1)CCC(CCC1=CC=C(C=C1)[N+](=O)[O-])=O | C17H16N2O5
reactant | hydrogen | [H][H] | H2
catalyst | Pd | [Pd] | Pd
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | 1,5-Bis (4-amino-phenyl)-pentan-3-one | NC1=CC=C(C=C1)CCC(CCC1=CC=C(C=C1)N)=O | C17H20N2O
